US06743794B2
Piperidine-1,3-dicarboxylic Acid 1-tert-butyl Ester
To a solution of nipecotic acid, 2.0 g (16.0 mmol) in 20 mL of THF and 20 mL of water was added 4.7 g (33.6 mmol) of potassium carbonate and 3.5 g (16.0 mmol) of Boc-anhydride. The resulting solution was stirred overnight at ambient temperature then concentrated to dryness. The residue was dissolved in water, washed with ether and acidified to pH=2 with 5N HCl. The acidic aqueous layer was extracted with 20% isopropanol/chloroform. The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated to dryness to yield 3.2 g (86%) of the desired mixture of isomers as a white solid. MS (ion spray) 228.2 (M−1).

reactant | nipecotic acid | N1CC(C(=O)O)CCC1 | C6H11NO2
reactant | water | 20 mL | O | H2O
reactant | potassium carbonate | 33.6 mmol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Piperidine-1,3-dicarboxylic Acid 1-tert-butyl Ester | 3.2 g, 86% | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
